* Model generated on 12 Feb 2010
* Model format: LTspice
* Fuses macro model
* External node designations
* Node in -> in
* Node out -> out
*
* By Helmut Sennewald, 2004
* Requires td >=0.1m
* FUSE MODEL
* Specify fuse current I_FUSE in Amps and time
* constant TAU_FUSE in seconds. This model takes a
* twofold rise of the fuse resistance into account.
******************************************************
.SUBCKT Fuse in out ; original as base generic, for demonstration / test purposes
+PARAMS: I_FUSE=2 TAU_FUSE=5

E1 Ee1 0 Value={I_FUSE*I_FUSE*2}
RX Ee1 0 1G

R1 in 1 1m
V2 1 2 0
B1 0 pt I=I(V2)*I(V2)*(1+V(pt)/V(Ee1))
R2 pt 0 1
C1 pt 0 {TAU_FUSE} IC=0
S1 2 out 5 0 SW1
V3 4 0 PULSE(0 1 1u 1u 1u 10u 1e6)
A1 3 4 0 0 0 5 0 0 SRFLOP td=1m
B2 3 0 V=IF(V(pt)>V(Ee1), 1, 0)
.MODEL SW1 SW(Ron=1u Roff=1G Vt=0.5 Vh=0)
.ENDS


******************************************
* 20x5mm glass fuses type F
******************************************

.subckt F50mA in out
XF1 in out Fuse
+PARAMS: I_FUSE=50m TAU_FUSE=.5
.ends

.subckt F63mA in out
XF1 in out Fuse
+PARAMS: I_FUSE=63m TAU_FUSE=.5
.ends

.subckt F100mA in out
XF1 in out Fuse
+PARAMS: I_FUSE=100m TAU_FUSE=.5
.ends

.subckt F125mA in out
XF1 in out Fuse
+PARAMS: I_FUSE=125m TAU_FUSE=.5
.ends

.subckt F160mA in out
XF1 in out Fuse
+PARAMS: I_FUSE=160m TAU_FUSE=.5
.ends

.subckt F200mA in out
XF1 in out Fuse
+PARAMS: I_FUSE=200m TAU_FUSE=.5
.ends

.subckt F250mA in out
XF1 in out Fuse
+PARAMS: I_FUSE=250m TAU_FUSE=.5
.ends

.subckt F315mA in out
XF1 in out Fuse
+PARAMS: I_FUSE=315m TAU_FUSE=.5
.ends

.subckt F500mA in out
XF1 in out Fuse
+PARAMS: I_FUSE=500m TAU_FUSE=.5
.ends

.subckt F630mA in out
XF1 in out Fuse
+PARAMS: I_FUSE=630m TAU_FUSE=.5
.ends

.subckt F800mA in out
XF1 in out Fuse
+PARAMS: I_FUSE=800m TAU_FUSE=.5
.ends

.subckt F1A in out
XF1 in out Fuse
+PARAMS: I_FUSE=1 TAU_FUSE=.5
.ends

.subckt F1.25A in out
XF1 in out Fuse
+PARAMS: I_FUSE=1.25 TAU_FUSE=.5
.ends

.subckt F1.6A in out
XF1 in out Fuse
+PARAMS: I_FUSE=1.6 TAU_FUSE=.5
.ends

.subckt F2A in out
XF1 in out Fuse
+PARAMS: I_FUSE=2 TAU_FUSE=.5
.ends

.subckt F2.5A in out
XF1 in out Fuse
+PARAMS: I_FUSE=2.5 TAU_FUSE=.5
.ends

.subckt F3.15A in out
XF1 in out Fuse
+PARAMS: I_FUSE=3.15 TAU_FUSE=.5
.ends

.subckt F4A in out
XF1 in out Fuse
+PARAMS: I_FUSE=4 TAU_FUSE=.5
.ends

.subckt F5A in out
XF1 in out Fuse
+PARAMS: I_FUSE=5 TAU_FUSE=.5
.ends

.subckt F6.3A in out
XF1 in out Fuse
+PARAMS: I_FUSE=6.3 TAU_FUSE=.5
.ends

.subckt F8A in out
XF1 in out Fuse
+PARAMS: I_FUSE=8 TAU_FUSE=.5
.ends

.subckt F10A in out
XF1 in out Fuse
+PARAMS: I_FUSE=10 TAU_FUSE=.5
.ends

.subckt fuse0 in out
VR in out 0
.ends
